Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute onset Nausea and vomiting 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with panhypopituitarism presenting with acute onset nausea 
vomiting and fever. 

Patient had cough and congestion for approximately one week, 
mild chills, but no recorded fevers.  Yesterday prior to 
admission, he had sudden onset nausea, vomiting. He called his 
PCP, who told him to increase his dose of PO prednisone, but he 
was unable to tolerate PO.  He vomited a total of ___ times. At 
9PM, he vomited, then "blacked out" for ___ minutes, not 
responding to wife calling his name, woke up spontaneously and 
felt ok.  No abnormal limb movements, tongue biting, or 
incontinence.  Wife called ___ and he was brought to the 
emergency department.  No preceeding chest pain or palpitations. 
 This is his first syncopal episode.

Of note, per recent discharge summary, patient has a history of 
not consistently taking his medications, including his PO 
prednisone, resulting in nausea/vomiting, and admission for IV 
steroids.  It was emphasized at that time that he must take all 
his medications as prescribed.
In the ED, initial VS were: 101.3 82 159/64 18 96% 2L Nasal 
Cannula  
.  
Labs were notable for a TSH of 0.25 and a Lactate of 2.2. He was 
given 100 mg IV hydrocortisone, 1g of tylenol, zofran for his 
vomiting, 1 L NS.  
.  
On arrival to the floor he is in no pain and resting 
comfortably.  
He is most concerned about dizziness he has been experienced, 
which has been persistent since ___.  He 
experiences lightheadedness, inability to walk, feels 
disoriented "loses himself in space", and his legs feel weak.  
Dizziness occurs ___ times daily, and experiences this sensation 
for ___ minutes at a time.  He usually just rests and feels 
better.  Never had a loss of consciousness or fall.  No abnormal 
limb movements, no history of seizure, stroke, or MI.  Only 
experiences dizziness when moving, never while lying still in 
bed.

Also complains of chest pressure lasting ___ minutes at night, 
never occurs with activity, now happening ___ weekly.  Had this 
complaint during last hospitalization, was recommended to get 
outpatient nuclear stress.  No changes recently.
.  
REVIEW OF SYSTEMS:  
(+)Per HPI
Pertinent negatives:  abdominal pain, dysuria / polyuria, vision 
changes, unilateral weakness, confusion or altered mental 
status, abnormal limb movements
 
Past Medical History:
- DM2  
- acromegaly s/p transsphenoidal resection and proton beam  
irradiation in ___  
- panhypopituitarism
- Multiple hospitalizations for nausea, vomiting, dizziness, 
most recently dc'ed ___ for n/v and was not taking PO 
prednisone consistently; had n/v and headache with negative 
neurologic workup ___
- Thyroid nodules  
- cholecystectomy  
 
Social History:
___
Family History:
Negative for headache, migraine, stroke.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS - 98.2 117/52 64 18 98% 3L
GENERAL - well-appearing man in NAD, comfortable, appropriate, 
large set jaw  
HEENT - NC/AT dry MM  
NECK - supple  
LUNGS - Bibasilar crackles, R > L
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, 
DPs), +large hands and feet c/w acromegaly
SKIN - no rashes or lesions  
NEURO - A&O, answers questions appropriately, no nystagmus, gait 
steady

DISCHARGE PHYSICAL EXAM
VS - Tm 98.7 Tc 98.4 BP 102/46 64 18 89% on RA -> 100% on RA 
with deep breathing and coughing; ambulatory sats maintained at 
99%, transiently dropped only as low as 95%
GENERAL - well-appearing ___ man in NAD, comfortable, 
appropriate, large set jaw  
HEENT - NC/AT dry MM  
NECK - supple  
LUNGS - Bibasilar crackles, R > L
HEART - RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, 
DPs), +large hands and feet c/w acromegaly
SKIN - no rashes or lesions  
NEURO - A&O, answers questions appropriately, no nystagmus, gait 
steady
 
Pertinent Results:
ADMISSION LABS
___ 01:10AM BLOOD WBC-6.4 RBC-3.79* Hgb-11.8* Hct-34.4* 
MCV-91 MCH-31.2 MCHC-34.3 RDW-14.4 Plt ___
___ 01:10AM BLOOD Neuts-84.4* Lymphs-9.0* Monos-5.5 Eos-1.0 
Baso-0.1
___ 09:00AM BLOOD ___ PTT-27.1 ___
___ 03:35PM BLOOD UreaN-32* Creat-1.1 Na-141 K-5.3* Cl-102 
HCO3-28 AnGap-16

OTHER RELEVANT LABS
___ 03:35PM BLOOD Albumin-4.1 Calcium-9.5 Cholest-127
___ 03:35PM BLOOD Triglyc-153* HDL-47 CHOL/HD-2.7 
LDLcalc-49
___ 03:35PM BLOOD %HbA1c-8.1* eAG-186*
___ 03:35PM BLOOD TSH-0.25*
___ 03:35PM BLOOD Free T4-1.1

DISCHARGE LABS
___ 12:45PM BLOOD WBC-6.3 RBC-3.37* Hgb-10.4* Hct-31.2* 
MCV-93 MCH-31.0 MCHC-33.5 RDW-14.4 Plt ___
___ 06:40AM BLOOD Glucose-182* UreaN-30* Creat-0.8 Na-140 
K-3.9 Cl-107 HCO3-25 AnGap-12
___ 06:40AM BLOOD Calcium-7.8* Phos-3.3 Mg-1.8

IMAGING
CHEST X-RAY:  Peribronchial opacification at both lung bases is 
most likely atelectasis, but on the right, there is also a small 
right pleural effusion, raising concern for pneumonia.  Heart 
size is top normal, exaggerated by exceedingly low lung volumes. 
 There is no pulmonary edema.

MICROBIOLOGY
NEGATIVE:  Influenza A/B by ___ DIRECT INFLUENZA A ANTIGEN 
TEST-FINAL; DIRECT INFLUENZA B ANTIGEN TEST-FINAL; Respiratory 
Viral Culture-FINAL INPATIENT 
___ URINE Legionella Urinary Antigen -FINAL 
INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
 
Brief Hospital Course:
___ YOM with panhypopituitaryism presented to ___ with fever, 
sudden onset nausea/vomiting, syncope, and hypoxemia, found to 
have possible pneumonia on CXR.  He most likely had a viral 
illness and required stress-dose steroids, but was unable to 
tolerate PO due to inractable nausea/vomiting.  He likely 
experienced syncope from dehydration related to viral illness, 
nausea, vomiting.

# Panhypopituitarism, central adrenal insufficiency:  Patient 
presented with nausea, vomiting, diarrhea; has been admitted 
with similar presentations.  Nausea and vomiting improved with 1 
dose IV steroids, and was able to tolerate oral steroids.  Home 
prednisone was increased to 15mg daily.  Patient was instructed 
to continue stress dose prednisone 15mg daily for duration of 
pneumonia treatment, patient has appointment with outpatient 
endocrinologist on ___, who was endocrinologist was updated 
on hospitalization.

# Fever, Hypoxemia, Healthcare associated pneumonia vs 
aspiration:  Patient reported respiratory illness ongoing for 
approximately 1 week.  Chest x-ray showed possible pneumonia.  
His CURB-65 score was 2, moderate severity.  Alternatively, he 
may have had aspiration event during vomiting / syncopal 
episode.  He recently traveled to ___, but given Wells Score 
of 0, suspicion for PE was low.  Started levofloxacin 750 mg 
daily for HCAP (___).  He was successfully weaned off of 
supplemental O2, and ambulatory sats remained in the high ___.  
Influenza A/B and urine legionella were negative.  Other 
infectious workup with pertinent negatives:  Urinalysis and 
urine culture negative.  Blood cultures NGTD at the time this 
note is written.

# Syncope:  Likely vasovagal in setting of vomiting and 
dehydration versus orthostatic hypotension in the setting of 
inability to take PO steroids.  Family denies abnormal movements 
to suggest seizure, awoke spontaneously with no residual 
deficits.  EKG showed RBB but no significant change from prior.  
Was monitored on telemetry overnight with no events recorded.

# Dizziness: Adrenal insufficiency vs vertigo (associated with 
movement and relieved with meclizine); orthostatics were normal, 
negative workup on prior admissions.  

# Anemia:  HCT has been mid 30's in past, most recently 31 
___, with normal iron studies. Rectal exam done and was 
found to be guaiac negative.  HCT was stable

# Hypertension: Quinapril was held given low/normal blood 
pressures during hospitalization, and possible contribution to 
syncope.  PCP was informed and may restart if needed.

# Chest pain:  Patient presented with atypical chest pain during 
last admission, ruled out for MI seen by cardiology, recommended 
outpatient stress test; History not consistent with cardiac 
etiology, may be GI (esophageal irritation, acid reflux)
Continued home aspirin 325mg, atorva 80mg, quinapril 10mg daily. 
 Recommended outpatient stress test 

# DM: Held oral diabetes meds and placed on insulin SS 

# CONTACT: patient, son ___ ___ ___ 
(daughter in law)  

other transitional issues (per PACT):
- Inconsistent with metformin and glimeperide; consider reducing 
 regimen to single agent for compliance (perhaps XR version of 
metformin which would be $4/month and provide better daily 
coverage). Taking an ACEI (MA-) and an ASA.
- Overdue for eye clinic f/up. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 80 mg PO DAILY 
2. glimepiride *NF* 1 mg Oral daily 
3. Levothyroxine Sodium 75 mcg PO DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. PredniSONE 5 mg PO DAILY 
6. Quinapril 10 mg PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Vitamin D 3000 UNIT PO DAILY 
9. Docusate Sodium 100 mg PO DAILY 
10. Senna 1 TAB PO BID:PRN constipation 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Docusate Sodium 100 mg PO DAILY 
4. Levothyroxine Sodium 75 mcg PO DAILY 
5. PredniSONE 15 mg PO DAILY 
RX *prednisone 5 mg 3 tablet(s) by mouth DAILY Disp #*15 Tablet 
Refills:*0
6. Senna 1 TAB PO BID:PRN constipation 
7. Vitamin D 3000 UNIT PO DAILY 
8. Calcium Carbonate 1500 mg PO DAILY 
Do not take within 1 hour of taking levothyroxine 
9. Levofloxacin 750 mg PO DAILY Duration: 7 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth DAILY Disp #*5 
Tablet Refills:*0
10. MetFORMIN (Glucophage) 1000 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Community acquired pneumonia, panhypopituitarism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
You were ___ to ___ for nausea, vomiting, and fever.  The 
nausea, vomiting, and dizziness that you experience periodically 
is most likely a result of low levels of steroids in your blood 
because your pituitary gland, which controls release of 
hormones, has been partially resected.  It is very important 
that you take prednisone as prescribed every day to prevent 
these symptoms.

You had fevers and your chest x-ray showed evidence of 
pneumonia, so we started you on an antibiotic called 
levofloxacin.
 
Followup Instructions:
___